US08168815B2
Step 1: Methyl 6-amino-5-bromo-2-naphthoate
To a solution of methyl 6-amino-2-naphthoate (0.5 g) in THF (10 ml) was added pyridinium tribromide (0.87 g). The reaction mixture was stirred at 0° C. for 1 h after which it was then filtered through a pad of SiO2 and washed with hexane. The organic washings were evaporated to dryness and the residue was purified by flash chromatography eluting with hexane to afford the titled compound.

reactant | methyl 6-amino-2-naphthoate | 0.5 g | NC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H11NO2
reactant | pyridinium tribromide | 0.87 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Methyl 6-amino-5-bromo-2-naphthoate | NC=1C(=C2C=CC(=CC2=CC1)C(=O)OC)Br | C12H10BrNO2
